data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]S(=O)(=O)O.CC(=O)NC1=CC=C(C=C1)[NH:12][N:11]=[O:10]>>[H:20][O:10][N:11]=[NH+:12]C1=CC=C(C=C1)NC(=O)C.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][CH2:21][C:22](=[O:23])C1=CC=CC=C1.[NH3:10].[NH4+]>>[H:20][NH3+:10].[CH2:21]=[C:22](C1=CC=CC=C1)[O-:23].[NH4+] 10=20;22,23=23;20,21=21,22
[H:20][O+:21]1C(COC1(C)CC)CO.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].CCC1(OCC([O:21]1)CO)C.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCOC[CH:10]=[C:11]([OH:12])OC>>[H:20][CH:10](COCC)[C:11](=[OH+:12])OC.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
CN(C)C1=CC=[N:10]C=C1.C1=CC=C(C=C1)C(=O)[CH2:20][Cl:21]>>CN(C)C1=CC=[N+:10](C=C1)[CH2:20]C(=O)C2=CC=CC=C2.[Cl-:21] 10=20;20,21=21
C1CC[C:20](=[OH+:21])C(C1)O.C(CO)[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=NC=C1>>C1CC[C:20](C(C1)O)([OH:21])[OH+:10]CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=NC=C1 10=20;20,21=21
[H:20][NH2+:21]C=N.[NH3:10].[C-]#N.O>>[H:20][NH3+:10].C(=N)[NH2:21].[C-]#N.O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1=C(C=C(C(=C1)Br)C=[O:10])F.CC1=CC=CC=C1.C(CO)O>>[H:20][O+:10]=CC1=CC(=CC=C1Br)F.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC1=CC=CC=C1.C(CO)O 10=20;20,21=21
[B:20](F)(F)F.C(=[O:10])S>>[B-:20]([O+:10]=CS)(F)(F)F 10=20,
C1CC[C+:20](CC1)O.C(CO)[OH:10]>>C1CC[C:20](CC1)(O)[OH+:10]CCO 10=20,
[H:20][CH:21](C)[CH:22](C)[O:23]S(=O)(=O)C1=CC=C(C=C1)C.CC(C)[N-:10]C(C)C>>CC1=CC=C(C=C1)S(=O)(=O)[O-:23].C[CH:21]=[CH:22]C.[H:20][N:10](C(C)C)C(C)C 10=20;22,23=23;20,21=21,22
[H:20][O:21]C1=C2C(=O)CCC3(C2=CC=C1)OC4=C5C(=CC=C4)C=CC=C5O3.CC1=[N:10]C(=CC=C1)C.C[Si](C)(C)OS(=O)(=O)C(F)(F)F>>[H:20][N+:10]1=C(C=CC=C1C)C.C1CC2(C3=CC=CC(=C3C1=O)[O-:21])OC4=C5C(=CC=C4)C=CC=C5O2.C[Si](C)(C)OS(=O)(=O)C(F)(F)F 10=20;20,21=21
[H:20][N+:21](=C=NC)C.CC(=O)[O-:10]>>CN=C=[N:21]C.[H:20][O:10]C(=O)C 10=20;20,21=21
CCC1CC(=N[OH:10])C2=CC=CC=C12.CC[NH+](CC)CC.[CH2:21]=[S:20](=O)=O.[Cl-]>>CCC1CC(=N[OH+:10][S:20](=O)(=O)[CH2-:21])C2=CC=CC=C12.CC[NH+](CC)CC.[Cl-] 10=20;20,21=21
C[Si-:10](C)(C)([O+:11]=C)F>>C[Si:10](C)(C)F.C=[O:11] 10,11=11
[H:20][Br:21].CC1(CCCC[CH:10]=[C:11]1C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1CCCCC([C+:11]1C2=CC=CC=C2)(C)C3=CC=CC=C3.[Br-:21] 10,11=10,20;20,21=21
CN(C)[PH:10]([OH+:11]C)(OC)OC>>CN(C)[PH+:10](OC)OC.C[OH:11] 10,11=11
[H:20][O+:21](C)C1=CCC2C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3.COC1=C2C3=C(CC4C5C3(CC[NH:10]4)C(O2)C(=O)CC5)C=C1>>[H:20][NH+:10]1CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3C(=O)CC4.C[O:21]C1=CCC2C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3 10=20;20,21=21
C1CC[C+:20](CC1)OCC[OH:10]>>C1CC[C:20]2(CC1)[OH+:10]CCO2 10=20,
[Li-]([NH+](C(C)C)C(C)C)[O:12][C:11]1=[CH:10]CC(C2C1O2)(C)C.[CH3:20][I:21]>>[Li-]([NH+](C(C)C)C(C)C)[O+:12]=[C:11]1[CH:10](CC(C2C1O2)(C)C)[CH3:20].[I-:21] 10,11=10,20;20,21=21;12=11
[CH:10]1=[CH:11]OC(=C1)[N+](=O)[O-].[N+:20](=O)=[O:21]>>C1=C(O[CH+:11][CH:10]1[N+:20](=O)[O-:21])[N+](=O)[O-] 10,11=10,20;20,21=21
[B:20](Br)(Br)Br.C[O:10]C1=C2C3=C(CC4C5(C3(CCN4C6=CC=CC=C6)C(O2)C(=O)CC5)O)C=C1>>[B-:20]([O+:10](C)C1=C2C3=C(CC4C5(C3(CCN4C6=CC=CC=C6)C(O2)C(=O)CC5)O)C=C1)(Br)(Br)Br 10=20,
CCO[C:10]1(C([O+:11]1[Al-](C)(C)C)C2CCCCC2)C(C(F)(F)F)(F)F>>CCO[C+:10](C(C1CCCCC1)[O:11][Al-](C)(C)C)C(C(F)(F)F)(F)F 10,11=11
[H:20][O+:21](CC)P(C)(C)(C)N(C(=O)OC)NC(=O)OC.[N-:10]=[N+]=[N-]>>[H:20][N:10]=[N+]=[N-].CC[O:21]P(C)(C)(C)N(C(=O)OC)NC(=O)OC 10=20;20,21=21
[H:20][C:21](C1C(CC=CC1=O)C)(C2=CCCN3C2CCC3=O)[O:22][I+:23]4(C5=C(C=CC=C5)C(=O)O4)OC(=O)C.CC(=O)[O-:10].CC(=O)O>>[H:20][O:10]C(=O)C.CC1CC=CC(=O)C1[C:21](=[O:22])C2=CCCN3C2CCC3=O.CC(=O)O[I:23]1C2=C(C=CC=C2)C(=O)O1.CC(=O)O 10=20;22,23=23;20,21=21,22
COC1=CC2=C(CCN3C24CC(C=CC4=CC3=O)[O+:11](C)[K-:10]O)C=C1.O.[I-]>>C[O:11]C1CC23C(=CC(=O)N2CCC4=C3C=C(C=C4)OC)C=C1.O[K:10].O.[I-] 10,11=11
[B-]([O+:21]=[C:20]1CC(=O)C=C1)(F)(F)F.C1=CC=C(C=C1)C(CO)(C[OH:10])C2=CC=CC=C2.CCOCC>>[B-]([O:21][C:20]1(CC(=O)C=C1)[OH+:10]CC(CO)(C2=CC=CC=C2)C3=CC=CC=C3)(F)(F)F.CCOCC 10=20;20,21=21
C[CH:20]([C:21]#N)[O-:10]>>C[CH:20]=[O:10].[C-:21]#N 10=20;20,21=21
COC(=O)C1CC[C:20](CC1)([OH2+:21])[O:10]CCO>>COC(=O)C1CC[C:20](=[O+:10]CCO)CC1.[OH2:21] 10=20;20,21=21
[H:20][N+:21](CC)(CC)CC.CC1=C(SC(=[N+]1C)C(C2=CC=CC=C2)[O-:10])CCO.CCO.C1=CSC(=C1)C(=O)C=CC2=CC=C(C=C2)C#N.[I-]>>[H:20][O:10]C(C1=CC=CC=C1)C2=[N+](C(=C(S2)CCO)C)C.CC[N:21](CC)CC.CCO.C1=CSC(=C1)C(=O)C=CC2=CC=C(C=C2)C#N.[I-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CC(=O)CCC(C1=CC=C(C=C1)S(=O)(=O)C)([NH2+]C2=CC=C(C=C2)F)[O-:10]>>[H:20][O:10]C(CCC(=O)C)(C1=CC=C(C=C1)S(=O)(=O)C)[NH2+]C2=CC=C(C=C2)F.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
C[C:22](=[O:23])[CH:21]=[CH2:20].CO[C:11](=[C:10]1C=CCCCC1=O)[O-:12].[HH].CO.[Na+]>>C[C:22](=[CH:21][CH2:20][C:10]1(C=CCCCC1=O)[C:11](=[O:12])OC)[O-:23].[HH].CO.[Na+] 10,11=10,20;12=11;22,23=23;20,21=21,22
CC1=CC=C(C=C1)S(=O)(=O)OC(C)CC[OH:10].CC1=CC=C(C=C1)[S:20](=O)(=[O:21])Cl>>CC1=CC=C(C=C1)S(=O)(=O)OC(C)CC[OH+:10][S:20](=O)(C2=CC=C(C=C2)C)([O-:21])Cl 10=20;20,21=21
[Li:11][C:10]1=C(N=CC=C1)Cl.[B:20](OC(C)C)(OC(C)C)OC(C)C>>[Li+:11].[B-:20]([C:10]1=C(N=CC=C1)Cl)(OC(C)C)(OC(C)C)OC(C)C 10,11=10,20
